US07432293B2
b) 3-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-benzoic acid methyl ester
In a 50 ml flask, 1.17 g (6.5 mmol) of isophtalic acid monomethyl ester are dissolved in 10 ml of DMF. To this solution, 1.16 g (7.2 mmol, 1.1 eq.) of 1,1′-carbonyl-diimidazole is added at room temperature under nitrogen. The mixture is stirred until carbon dioxide formation stops. Then, 1.00 g (6.5 mmol) of 4-fluoro-N-hydroxy-benzamidine is added and the resulting yellow solution stirred for 2 h. Now, another 1.16 g (7.2 mmol, 1.1 eq.) of 1,1′-carbonyl-diimidazole are added and the mixture is heated to 115° C. After 2 h at this temperature, the reaction mixture is cooled to room temperature and the solvent removed in vacuo. After chromatographical purification (160 g SiO2;eluent: hexane/CH2Cl2 6:4 to 1:1) the title compound is obtained as a white solid. Mass spectrum: m/z (M+H)+: 299.0

reactant | isophtalic acid monomethyl ester | 6.5 mmol, 1.17 g | COC(C1=CC(C(=O)O)=CC=C1)=O | C9H8O4
reactant | 1,1′-carbonyl-diimidazole | 7.2 mmol, 1.16 g, 1.1 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 4-fluoro-N-hydroxy-benzamidine | 6.5 mmol, 1.00 g | FC1=CC=C(C(=N)NO)C=C1 | C7H7FN2O
reactant | 1,1′-carbonyl-diimidazole | 7.2 mmol, 1.16 g, 1.1 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[3-(4-Fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NC(=NO1)C1=CC=C(C=C1)F)=O | C16H11FN2O3
